US06184398B2
Preparation of 1α,3β-dihydroxy-20(S)-(3-hydroxy-3-methylbutylthio)pregna-5,7,16-triene
To a solution of 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-(3-hydroxy-3-methylbutylthio)pregna-5,7,16-triene (58.5 mg, 0.107 mmol) in tetrahydrofuran (3 ml) was added 1M tetra-n-butylammonium fluoride solution in tetrahydrofuran (2 ml), and the mixed solution was heated under reflux for 4 hours. After completion of the reaction, the reaction solution was diluted with ethyl acetate, and washed with ice-cooled 0.5 N hydrochloric acid, saturated aqueous sodium bicarbonate solution and brine successively, and the organic layer was dried over magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified by preparative thin layer chromatography (0.5 mm×2, dichloromethane:ethanol=7:1, developed once) to give the title compound as a pale yellow oil (41.8 mg, 90%).

reactant | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-(3-hydroxy-3-methylbutylthio)pregna-5,7,16-triene | 0.107 mmol, 58.5 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCCC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C32H54O3SSi
reactant | tetra-n-butylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1α,3β-dihydroxy-20(S)-(3-hydroxy-3-methylbutylthio)pregna-5,7,16-triene | 41.8 mg, 90% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCCC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C26H40O3S
